US06982348B2
A mixture of ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-(4-neopentylbenzyl)propionate (3.756 g, 9.657 mmol), sodium hydroxide (0.77 g, 19.3 mmol), methanol (20 ml), water (10 ml) and tetrahydrofuran (20 ml) was stirred overnight at room temperature. The reaction solution was concentrated, diluted with water, acidified with hydrochloric acid, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give a crude product of (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-(4-neopentylbenzyl)propionic acid as a white solid.

reactant | ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-(4-neopentylbenzyl)propionate | 9.657 mmol, 3.756 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)CC(C)(C)C)O | C23H29ClO3
reactant | sodium hydroxide | 19.3 mmol, 0.77 g | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-(4-neopentylbenzyl)propionic acid | ClC=1C=C(C=CC1)C(C(C(=O)O)CC1=CC=C(C=C1)CC(C)(C)C)O | C21H25ClO3
